US04511392
The reactions of Equation 57 above can be run by methods known in the art. Thus, in reaction 57a, a 2-nitrothiobenzoate of Formula (LXXV) is reacted with guanidine in a solvent such as ethanol or tetrahydrofuran at 0° to about 30° C. for 2 to 120 hours to form a 2-nitrothiobenzoylguanidine of Formula (LXXVI), according to the teachings of J. Goerdeler and A. Fincke, Chem. Ber., 89, 1033 (1956). In reaction 57b, LXXVI is cyclized by reaction with bromine in methanol at 0° to 60° C. for 0.5 to 3 hours to form a 3-amino-5-(2-nitrophenyl)-1,2,4-thiadiazole of Formula (LXXVII), according to the teachings of ibid. In reaction 57c, LXXVII is reacted with sodium nitrite in hydrochloric acid or hydrobromic acid, in the presence of copper powder, at -10° to 60° C. for 0.5 to 5 hours to form Xq' via Sandmeyer reaction, according to the teachings of F. Kurzer and S. Taylor, J. Chem. Soc., 3234 (1960). And in the last reaction, Xq' is reacted with sodium methoxide, sodium ethoxide or sodium methylmercaptide in a solvent such as methanol, ethanol or tetrahydrofuran at reflux for 0.5 to 5 hours to form Xq", according to the teachings of ibid.

reactant | 2-nitrothiobenzoate | [N+](=O)([O-])C1=C(C(=S)[O-])C=CC=C1
reactant | guanidine | NC(=N)N | CH5N3
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-nitrothiobenzoylguanidine | [N+](=O)([O-])C1=C(C(=S)NC(=N)N)C=CC=C1 | C8H8N4O2S
